US09126993B2
1-benzyl-3-(quinuclidin-3-yl)imidazolidin-2-one
To a solution of 1-benzyl-3-(quinuclidin-3-yl)urea (260 mg, 1.00 mmol) in DMF (30 ml) was added NaH [60% dispersion in mineral oil] (96 mg, 2.4 mmol) with ice bath cooling. The resultant mixture was stirred for 2 h before BrCH2CH2Br (0.75 g, 4.0 mmol) was added carefully. The reaction was stirred for an additional 18 h at about 25° C. After HPLC separation, the aqueous layer was lyophilized and purified by prep-TLC (CHCl3 to 5% MeOH in CHCl3 to 5% 2N NH3(MeOH) in CHCl3) to give the title compound (81 mg, 28%). 1H NMR (400 MHz, CDCl3) δ 7.19-7.22 (m, 4H), 7.11-7.14 (m, 1H), 6.09 (dd, J=15.2, 8.4 Hz, 1H), 5.45 (dd, J=15.6, 4.0 Hz, 1H), 5.30 (dd, J=8.0, 3.6 Hz, 1H), 4.17-4.29 (m, 4H), 3.66-3.75 (m, 2H), 3.47 (d, J=12.4 Hz, 1H), 3.19-3.27 (m, 3H), 2.34 (br s, 1H), 2.22 (d, J=2.4 Hz, 1H), 1.92 (br s, 2H), 1.75 (br s, 1H) ppm. 13C NMR (400 MHz, CDCl3) δ 158.9, 141.1, 140.4, 128.7, 127.4, 127.3, 113.6, 63.6, 57.1, 56.0, 45.6, 43.9, 25.2, 23.0, 18.8 ppm. Purity: 93.8% HPLCMS (210 nm); retention time 1.84 min; (M+1) 286.

reactant | 1-benzyl-3-(quinuclidin-3-yl)urea | 1.00 mmol, 260 mg | C(C1=CC=CC=C1)NC(=O)NC1CN2CCC1CC2 | C15H21N3O
reactant | NaH | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | BrCH2CH2Br | 4.0 mmol, 0.75 g | BrCCBr | C2H4Br2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-3-(quinuclidin-3-yl)imidazolidin-2-one | 81 mg, 28% | C(C1=CC=CC=C1)N1C(N(CC1)C1CN2CCC1CC2)=O | C17H23N3O
